US07435812B2
Preparation of the Glucosamine According to the Present Invention
The mother liquors filtered off (166 g) consisted of water (100.4 ml), glucosamine hydrochloride (27.74 g; 0.13 mol) and sodium sulphate (37.90 g; 0.27 mol).

reactant | glucosamine hydrochloride | 0.13 mol, 27.74 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium sulphate | 0.27 mol, 37.90 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 100.4 ml | O | H2O
product | Glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
